US07834063B2
Methyl 4-({2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}oxy)benzoate
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and methyl 4-hydroxybenzoate: MS (APCI) m/z 446 (M+).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
product | Methyl 4-({2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}oxy)benzoate | C(#N)C1=C(C=C(C=C1)N(CCOC1=CC=C(C(=O)OC)C=C1)CC(F)(F)F)C(F)(F)F | C20H16F6N2O3
